US06982268B2
To the 3,5-diethoxy-pyridine-2-carboxylic acid ethyl ester solution (250 mg, 1.04 mmol) in CH2Cl2 (10 ml), a solution of DIBAL in THF (1N, 3 mL) is added, and stirred at room temperature for 20 minutes. Excess reagent is quenched with Glauber's salt (Na2H2SO4·10H2O), filtered and concentrated to afford (3,5-diethoxy-pyridin-2-yl)-methanol (166 mg, 80% yield); 1H NMR (300 MHz, CDCl3): 7.77 (s, 1H), 6.69 (s, 1H), 4.65 (s, 2H), 4.15 (q, J=6.9 Hz, 2H), 3.65 (q, J=6.9 Hz, 2H), 1.45 (t, J=6.9 Hz, 6H).

reactant | 3,5-diethoxy-pyridine-2-carboxylic acid ethyl ester | 1.04 mmol, 250 mg | C(C)OC(=O)C1=NC=C(C=C1OCC)OCC | C12H17NO4
reactant | DIBAL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 1N, 3 mL | C1CCOC1 | C4H8O
product | (3,5-diethoxy-pyridin-2-yl)-methanol | 166 mg, 80% yield | C(C)OC=1C(=NC=C(C1)OCC)CO | C10H15NO3
